US05109131
To a mixture of tert-butyl alcohol [74.1 g] and 4-(dimethylamino)pyridine [0.61 g] was added dropwise diketene [84.1 g] at 50° to 60° C. in the course of one hour while stirring. The stirring was continued for one further hour at 30° to 50° C. to obtain a colorless and clear reaction mixture, which was subjected to distillation under reduced pressure (b.p. 85° C./20 mmHg) to yield tert-butyl 3-oxobutyrate [156 g] as an oily product. The yield was 98.6%. NMR(CDCl3): δ3.34(2H,s), 2.25(3H,s), 1.47(9H,s)ppm .

reactant | diketene | 84.1 g | C=C1CC(=O)O1 | C4H4O2
reactant | tert-butyl alcohol | 74.1 g | C(C)(C)(C)O | C4H10O
catalyst | 4-(dimethylamino)pyridine | 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-oxobutyrate | 156 g, yield was 98.6% | O=C(CC(=O)OC(C)(C)C)C | C8H14O3
